US04155918
50 g of 17β-hydroxy-1α-methyl-5α-androstan-3-one were heated at reflux in 1000 ml of absolute benzene, 125 ml of ethylenegycol and 1.25 g of p-toluenesulphonic acid for 7 hours while stirring under a water separator. The solution was then diluted with ether, washed with sodium hydrogen carbonate solution and water, dried and evaporated to dryness. 55 g of 3,3-ethylenedioxy-17β-hydroxy-1α-methyl-5α-androstane were obtained.

reactant | 17β-hydroxy-1α-methyl-5α-androstan-3-one | 50 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C[C@@H]([C@]3(C)[C@H]1CC2)C)=O | C20H32O2
reactant | p-toluenesulphonic acid | 1.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 1000 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 3,3-ethylenedioxy-17β-hydroxy-1α-methyl-5α-androstane | 55 g | C1OC2(C[C@@H]3CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3([C@H](C2)C)C)O)OC1 | C22H36O3
